US07863291B2
A mixture of 5-bromopyrazin-2-amine (1.2 g, 6.9 mmol) and pyrrolidine (4 mL, 48 mmol) was microwaved at 180° C., 200 W for 2 h. The reaction was diluted into 125 mL ethyl acetate and extracted with water (3×50 mL) and brine (50 mL). It was dried over sodium sulfate, filtered and concentrated. The crude product was purified by column chromatography (0 to 3% methanol/methylene chloride) to afford 5-(pyrrolidin-1-yl)pyrazin-2-amine (495 mg, 3. mmol, 43.7% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.52 (1 H, d, J=1.51 Hz), 7.36 (1 H, d, J=1.76 Hz), 5.21 (2H, s), 3.24-3.29 (4 H, m), 1.90 (4 H, ddd, J=6.48, 3.53, 3.34 Hz). MS (LC/MS) R.T.=0.52; [M+H]+=165.29.

reactant | 5-bromopyrazin-2-amine | 6.9 mmol, 1.2 g | BrC=1N=CC(=NC1)N | C4H4BrN3
reactant | pyrrolidine | 48 mmol, 4 mL | N1CCCC1 | C4H9N
solvent | ethyl acetate | 125 mL | C(C)(=O)OCC | C4H8O2
product | 5-(pyrrolidin-1-yl)pyrazin-2-amine | 495 mg, 43.7% yield | N1(CCCC1)C=1N=CC(=NC1)N | C8H12N4
